US08754100B2
Synthesis of 2-bromomethyl-4-tert-butyl-1-methoxybenzene
N-Bromosuccinimide (5.66 g) and 2,2′-azobis(isobutyronitrile) (71 mg) were added to a solution of 4-tert-butyl-1-methoxy-2-methylbenzene (5.16 g) in carbon tetrachloride (25 mL), and the mixture was heated under reflux for 1.5 hours. The reaction solution was ice-cooled and then the insoluble matter was removed by filtration. The filtrate was concentrated under reduced pressure to obtain 7.78 g of the title compound. The property values of the compound are as follows.

reactant | N-Bromosuccinimide | 5.66 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4-tert-butyl-1-methoxy-2-methylbenzene | 5.16 g | C(C)(C)(C)C1=CC(=C(C=C1)OC)C | C12H18O
solvent | carbon tetrachloride | 25 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | 2,2′-azobis(isobutyronitrile) | 71 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 2-bromomethyl-4-tert-butyl-1-methoxybenzene | 7.78 g | BrCC1=C(C=CC(=C1)C(C)(C)C)OC | C12H17BrO
